US04049829
(±)-2,15-Dimethyl-3,14-dithia-1,16-hexadecanediol Code No. CRL 40 122
A solution in tetrahydrofuran of 7 g (0.0200 mole) of (±)-2,15-dimethyl-3,14-dithia-1,16-hexadecanedioic acid was slowly poured under a current of nitrogen into an agitated suspension of 2.3 g (0.0605 mole) of LiAlH4 in tetrahydrofuran. The reaction medium was then heated under reflux for 3 hours 15 mins. After neutralisation of the excess reducing agent with ethyl acetate and aqueous alkali, the reaction mixture was filtered and then the solvents were eliminated from the filtrate. The residue was separated between water and methylene chloride. The organic phase was recovered and then washed to neutrality and dried. The solvent was evaporated under reduced pressure and the residue was washed by trituration with petroleum ether. After filtration, 5.4 g of a white crystalline powder was obtained which was insoluble in water. (H is understood that the (+) and (-) isomers can be separated from the racemic form by known methods).

reactant | (±)-2,15-dimethyl-3,14-dithia-1,16-hexadecanedioic acid | 0.0200 mole, 7 g | CC(C(=O)O)SCCCCCCCCCCSC(C(=O)O)C | C16H30O4S2
reactant | LiAlH4 | 0.0605 mole, 2.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-2,15-Dimethyl-3,14-dithia-1,16-hexadecanediol | 5.4 g, Yield = 83.7% | CC(CO)SCCCCCCCCCCSC(CO)C | C16H34O2S2
